* AD8251 SPICE Macro-model
* Description: 10 MHz, G = 1, 2, 4, 8 iCMOS PGIA
* Developed By: JG
* Revision History: Rev.0 08/2014
*					Rev.1 09/2018, Fixed gain mode bug on LTSPICE, Fixed CMRR performance, corrected by KF & DB
* Copyright 2014 by Analog Devices, Inc
*
* Temperature variations for the AD8251 are NOT included
* in this model.
*
* Parameters modeled include Gain Vs. Frequency, CMRR vs. Frequency, Noise RTI,
* small and large pulse response, Clamp Vs. Load
*
* Voltage Noise parameters for this model will closely model
* typical AD8250 characteristics.
*
* Node Assignments
*		      inverting input
*                     |   digital ground
*                     |   |   negative supply
*                     |   |   |  A0 (digital gain control)
*                     |   |   |  |  A1 (digital gain control)
*                     |   |   |  |  |   Digital Write
*                     |   |   |  |  |   |  output
*                     |   |   |  |  |   |  |  positive supply
*                     |   |   |  |  |   |  |  |   reference
*                     |   |   |  |  |   |  |  |   |   non-inverting input

.SUBCKT AD8251       -IN DGND -Vs A0 A1 WR OUT +Vs REF +IN

*
*Power Supply
*
*Analog Power Supply
R6 0 90 0.0001
R5 0 AGND_1 0.0001
I2 90 -Vs 0.0045
I1 +Vs AGND_1 0.0046
EV6 50 90 -Vs 90 1
EV5 99 AGND_1 +Vs AGND_1 1
R7 0 DGND 0.0001


*
*Digital power supply
VDD1 D99 0 5
*
*power consumption correction
ICORR_P1 99 0 0.0011
ICORR_N1 0 50 0.0007
*
*Internal Voltage Reference
EREF1 98 0 40 0 1
CREF1 40 0 5e-006
RREF2 40 50 500000
RREF1 99 40 500000
*
*
*GAIN CONTROL
*
*gain of 8
Rfb9 104 116 6750
Rfb8 116 115 1928
Rfb7 103 115 6750
SGC16 116 72 A1int 0 SW1
SGC15 72 Rg+ A0int 0 SW1
SGC14 13 115 A1int 0 SW1
SGC13 Rg- 13 A0int 0 SW1
*
*gain of 4
Rfb6 104 112 6750
Rfb5 112 111 4500
Rfb4 103 111 6750
SGC12 114 Rg+ A0barint 0 SW1
SGC11 112 114 A1int 0 SW1
SGC10 6 111 A1int 0 SW1
SGC9 Rg- 6 A0barint 0 SW1
*
*Gain of 2
Rfb3 104 108 6750
Rfb2 108 107 13500
Rfb1 103 107 6750
SGC8 110 Rg+ A0int 0 SW1
SGC7 108 110 A1barint 0 SW1
SGC6 5 107 A1barint 0 SW1
SGC5 Rg- 5 A0int 0 SW1
*
*Gain of 1
SGC4 104 134 A1barint 0 SW1
SGC3 134 Rg+ A0barint 0 SW1
SGC2 7 103 A1barint 0 SW1
SGC1 Rg- 7 A0barint 0 SW1
*
*Switches for bypassing flipflops
*If WR is less than -3V, flipflops are
*bypassed and A0 and A1 are passed
*directly through
*
SBP4 A1bar A1barint 0 WR SW2
SBP3 A1 A1int 0 WR SW2
*MN2 A1bar A1 D99 D99 NMOS1
*MI2 A1bar A1 DGND DGND PMOS1 L=0.5u W=1u
MN2 A1bar A1 D99 D99 PMOS  L=3e-006  W=1.5e-005
MI2 A1bar A1 DGND DGND NMOS  L=3e-006  W=6e-006
SBP2 A0bar A0barint 0 WR SW2
SBP1 A0 A0int 0 WR SW2
*MN1 A0bar A0 D99 D99 NMOS1
*MI1 A0bar A0 DGND DGND PMOS1 L=0.5u W=1u
MN1 A0bar A0 D99 D99 PMOS  L=3e-006  W=1.5e-005
MI1 A0bar A0 DGND DGND NMOS  L=3e-006  W=6e-006
*
*
*Switches for latched mode
*falling clock edge data latches with
*switches. If WR is higher than -1.5V,
*switches pass latched data through, which
*is latched on falling clock edge
*
Vcntlin1 cntlV 0 3
*
*DFF for A1
*
SLAT4 A1bLAT A1barint WR cntlV SW1
SLAT3 A1LAT A1int WR cntlV SW1
*
MN70 FFWRb_1 WR D99 D99 PMOS  L=3e-006  W=1.5e-005
MI6 FFWRb_1 WR DGND DGND NMOS  L=3e-006  W=6e-006
MN69 FFDb_1 A1 D99 D99 PMOS L=3e-006  W=1.5e-005
MI5 FFDb_1 A1 DGND DGND NMOS  L=3e-006  W=6e-006
MN68 A1bLAT A1LAT D99 D99 PMOS  L=3e-006  W=1.5e-005
MN67 A1bLAT 132 D99 D99 PMOS L=3e-006  W=1.5e-005
MN66 123 132 DGND DGND NMOS  L=3e-006  W=6e-006
MN65 A1bLAT A1LAT 123 DGND NMOS L=3e-006  W=6e-006
MN64 132 FFWRb_1 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN63 132 130 D99 D99 PMOS L=3e-006  W=1.5e-005
MN62 122 130 DGND DGND NMOS L=3e-006  W=6e-006
MN61 132 FFWRb_1 122 DGND NMOS L=3e-006  W=6e-006
MN60 A1LAT A1bLAT D99 D99 PMOS L=3e-006  W=1.5e-005
MN59 A1LAT 135 D99 D99 PMOS L=3e-006  W=1.5e-005
MN58 124 135 DGND DGND NMOS L=3e-006  W=6e-006
MN57 A1LAT A1bLAT 124 DGND NMOS  L=3e-006  W=6e-006
MN56 135 FFWRb_1 D99 D99 PMOS L=3e-006  W=1.5e-005
MN55 135 131 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN54 121 131 DGND DGND NMOS  L=3e-006  W=6e-006
MN53 135 FFWRb_1 121 DGND NMOS  L=3e-006  W=6e-006
MN52 130 131 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN51 130 136 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN50 125 136 DGND DGND NMOS  L=3e-006  W=6e-006
MN49 130 131 125 DGND NMOS  L=3e-006  W=6e-006
MN48 136 WR D99 D99 PMOS  L=3e-006  W=1.5e-005
MN47 136 FFDb_1 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN46 120 FFDb_1 DGND DGND NMOS  L=3e-006  W=6e-006
MN45 136 WR 120 DGND NMOS  L=3e-006  W=6e-006
MN44 131 130 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN43 131 129 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN42 126 129 DGND DGND NMOS  L=3e-006  W=6e-006
MN41 131 130 126 DGND NMOS  L=3e-006  W=6e-006
MN40 129 WR D99 D99 PMOS  L=3e-006  W=1.5e-005
MN39 129 A1 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN38 119 A1 DGND DGND NMOS  L=3e-006  W=6e-006
MN37 129 WR 119 DGND NMOS  L=3e-006  W=6e-006
MN36 FFWRb WR D99 D99 PMOS  L=3e-006  W=1.5e-005
*
*DFF for A0
*
SLAT2 A0bLAT A0barint WR cntlV SW1
SLAT1 A0LAT A0int WR cntlV SW1
*
MI4 FFWRb WR DGND DGND NMOS  L=3e-006  W=6e-006
MN35 FFDb A0 D99 D99 PMOS  L=3e-006  W=1.5e-005
MI3 FFDb A0 DGND DGND NMOS  L=3e-006  W=6e-006
MN34 A0bLAT A0LAT D99 D99 PMOS  L=3e-006  W=1.5e-005
MN33 A0bLAT 4 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN32 91 4 DGND DGND NMOS  L=3e-006  W=6e-006
MN31 A0bLAT A0LAT 91 DGND NMOS  L=3e-006  W=6e-006
MN30 4 FFWRb D99 D99 PMOS  L=3e-006  W=1.5e-005
MN29 4 12 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN28 64 12 DGND DGND NMOS  L=3e-006  W=6e-006
MN27 4 FFWRb 64 DGND NMOS  L=3e-006  W=6e-006
MN26 A0LAT A0bLAT D99 D99 PMOS  L=3e-006  W=1.5e-005
MN25 A0LAT 127 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN24 94 127 DGND DGND NMOS  L=3e-006  W=6e-006
MN23 A0LAT A0bLAT 94 DGND NMOS  L=3e-006  W=6e-006
MN22 127 FFWRb D99 D99 PMOS  L=3e-006  W=1.5e-005
MN21 127 11 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN20 61 11 DGND DGND NMOS  L=3e-006  W=6e-006
MN19 127 FFWRb 61 DGND NMOS  L=3e-006  W=6e-006
MN18 12 11 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN17 12 128 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN16 118 128 DGND DGND NMOS  L=3e-006  W=6e-006
MN15 12 11 118 DGND NMOS  L=3e-006  W=6e-006
MN14 128 WR D99 D99 PMOS  L=3e-006  W=1.5e-005
MN13 128 FFDb D99 D99 PMOS  L=3e-006  W=1.5e-005
MN12 27 FFDb DGND DGND NMOS  L=3e-006  W=6e-006
MN11 128 WR 27 DGND NMOS  L=3e-006  W=6e-006
MN10 11 12 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN9 11 3 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN8 10 3 DGND DGND NMOS  L=3e-006  W=6e-006
MN7 11 12 10 DGND NMOS  L=3e-006  W=6e-006
MN6 3 WR D99 D99 PMOS  L=3e-006  W=1.5e-005
MN5 3 A0 D99 D99 PMOS  L=3e-006  W=1.5e-005
MN4 20 A0 DGND DGND NMOS  L=3e-006  W=6e-006
MN3 3 WR 20 DGND NMOS  L=3e-006  W=6e-006
*
*Resistor fb Network, output op amp
R4 201 OUT 10000
R3 103 201 10000
*R3 Rg- 201 10000
R2 202 REF 10000
R1 104 202 10000
*R1 Rg+ 202 10000
*
* OUTPUT AMPLIFIER
*+PS perturbation stage output amp
EPSC2 34 98 99 0 1
RPSC4 98 37 0.29
CPSC2 37 34 5.2e-010
RPSC3 37 34 100000
*
*CM voltage stage output amp
ECMC3 109 98 +IN 98 1
RCMC2 98 81 0.29
CCMC1 81 113 2.5e-010
RCMC1 81 113 100000
ECMC2 113 109 -IN 98 1
*
*output stage output amp
VMO9 100 OUT 0
VMO8 102 50 0
VMO7 99 101 0
ROUT6 102 100 10
ROUT5 100 101 10
GOUT6 102 100 95 50 0.1
GOUT5 100 101 99 95 0.1
*
*Current limiting output amp
VILIM6 97 100 0.415
VILIM5 100 96 0.415
DILIM6 97 95 DIODE4
DILIM5 95 96 DIODE3
*
*Supply current adjustment output amp
GFADJ4 0 99 VALUE = {1*(V(99) - V(92))}
GFADJ3 50 0 VALUE = {1*(V(93) - V(50))}
*
*voltage limiting circuitry output amp
VLIM6 99 92 1.45
VLIM5 93 50 1.55
DOUT6 93 89 DIODE6
DOUT5 89 92 DIODE5
*
*Intermediate gain stage output amp
RP6 98 95 1000
GP5 95 98 89 98 0.001
CP4 95 98 1e-011
*
*Gain stage with dominant pole = 13 Hz output amp
GP6 89 98 52 83 1
CP3 89 98 2.1e-007
RP5 98 89 10000000
*
*-PS perturbation output amp
EPSC1 88 98 50 0 1
RPSC2 87 88 100000
CPSC1 87 88 2e-008
RPSC1 98 87 0.39
*
*Voltage Noise stage output amp
VN3 86 98 0.618
DN3 86 85 DIODE1
RNOI6 98 85 0.0004
VMEASC1 85 98 0
GF3 84 98 VALUE = {1*(V(85) - V(98))}
RNOI5 98 84 1
*
*Offset V, CM, PS, voltage noise introduction
D6 202 99 DIODE2
D5 50 202 DIODE2
EPSRC_P1 202 82 37 98 1
VOSC1 80 79 0.0006425
ENOISC1 106 80 84 98 1
ECMC1 82 106 81 98 1
EPSRC_N1 201 117 87 98 1
VPSRC1 117 78 5.85e-005
*
*Input stage output amplifier
Q5 52 78 133 PNP
Q6 83 79 55 PNP
RC6 50 52 5750
RC5 50 83 5750
RE6 59 133 175
RE5 59 55 175
IBIASC1 99 59 0.001
CC1 52 83 7e-013
*
*COMP AMPLIFIER 2
*
*Output stage comp amp 2
VMO6 68 104 0
*VMO6 68 Rg+ 0
VMO5 70 50 0
VMO4 99 69 0
ROUT4 70 68 10
ROUT3 68 69 10
GOUT4 70 68 65 50 0.1
GOUT3 68 69 99 65 0.1
*
*Current limiting comp amp 2
VILIM4 67 68 0.415
VILIM3 68 66 0.415
DILIM4 67 65 DIODE4
DILIM3 65 66 DIODE3
*
*Voltage limiting circuitry comp amp 2
VLIM4 99 62 1.55
VLIM3 63 50 1.65
DOUT4 63 60 DIODE6
DOUT3 60 62 DIODE5
*
*Supply Current adjustment amp2
GFADJ6 50 0 VALUE = {1*(V(63) - V(50))}
GFADJ5 0 99 VALUE = {1*(V(99) - V(62))}
*
*Gain stage with dominant pole=0.8Hz comp amp 2
GP4 60 98 44 56 1
RP3 98 60 10000000
CP2 60 98 5e-008
*
*Intermediate gain stage comp amp 2
GP3 65 98 60 98 0.001
RP4 98 65 1000
*
*+PS Perturbation stage comp amp 2
EPSB1 77 98 99 0 1
RPSB2 74 77 100000
CPSB1 74 77 1e-017
RPSB1 98 74 0.1
*
*Voltage noise stage comp amp 2
VN2 58 98 0.623
DN2 58 57 DIODE1
RNOI4 98 57 0.000135
VMEASB1 57 98 0
GF2 51 98 VALUE = {1*(V(57) - V(98))}
RNOI3 98 51 1
*
*Common mode voltage stage comp amp 2
ECMB3 73 98 -IN 98 1
*RCMB2 98 76 0.19
RCMB2 98 76 0.001
CCMB1 76 54 5e-011
RCMB1 76 54 100000
ECMB2 54 73 +IN 98 1
*
*CM, +PS, Noise introduction
D4 +IN 99 DIODE2
D3 50 +IN DIODE2
ECMB1 +IN 1 76 98 1
EPSRB1 75 49 74 98 1
ENOISB1 1 75 51 98 1
*
*Bias Current Compensation
GFBIASCMPB1 +IN 0 VALUE = {0.9988*(V(49) - V(48))}
VBIASMONB1 49 48 0
*
*Input stage compare amplifier 2
Q3 44 Rg+ 43 PNP
Q4 56 48 45 PNP
RC4 47 44 5000
RC3 47 56 5000
RE4 46 43 415
RE3 46 45 415
IBIASB1 99 46 0.001
VADJB1 50 47 1.5
*
*COMP AMPLIFIER 1
*Output stage comp amp 1
VMO3 39 103 0
*VMO3 39 Rg- 0
VMO2 41 50 0
VMO1 99 42 0
ROUT2 41 39 10
ROUT1 39 42 10
GOUT2 41 39 36 50 0.1
GOUT1 39 42 99 36 0.1
*
*Current limiting comp amp 1
VILIM2 38 39 0.415
VILIM1 39 35 0.415
DILIM2 38 36 DIODE4
DILIM1 36 35 DIODE3
*
*Supply current adjustment comp amp 1
GFADJ2 0 99 VALUE = {1*(V(99) - V(29))}
GFADJ1 50 0 VALUE = {1*(V(33) - V(50))}
*
*Voltage limiting circuitry comp amp 1
VLIM2 99 29 1.55
VLIM1 33 50 1.65
DOUT2 33 32 DIODE6
DOUT1 32 29 DIODE5
*
*Intermediate gain stage comp amp 1
GP1 36 98 32 98 0.001
RP2 98 36 1000
*
*Gain stage with dominant pole=0.8Hz comp amp 1
GP2 32 98 18 16 1
CP1 32 98 5e-008
RP1 98 32 10000000
*
*-PS Perturbation stage comp amp 1
EPSA1 31 98 50 0 1
RPSA2 30 98 0.15
CPSA1 31 30 4.5e-010
RPSA1 31 30 100000
*
*Voltage noise stage comp amp 1
VN1 26 98 0.623
DN1 26 24 DIODE1
RNOI2 98 24 0.000135
VMEASA1 24 98 0
GF1 28 98 VALUE = {1*(V(24) - V(98))}
RNOI1 98 28 1
*
* noise, -PS offset V introduction
D2 -IN 99 DIODE2
D1 50 -IN DIODE2
VPSRA_N1 23 A9 0.0001408
EPSRA_N1 Rg- 23 98 30 1
VOSA1 25 19 0.000158
ENOISA1 -IN 25 28 98 1
*
*Bias Current Compensation
GFBIASCMPA1 -IN 0 VALUE = {0.9988*(V(19) - V(2))}
VBIASMONA1 19 2 0
*
*Input stage compare amplifier 1
Q1 18 A9 15 PNP
Q2 16 2 8 PNP
RC2 21 18 5000
RC1 21 16 5000
RE2 22 15 415
RE1 22 8 415
IBIASA1 99 22 0.001
VADJA1 50 21 1.5
*
.model PMOS pmos
+ (
+  Level=2 VTO=-0.738861 KP=2.7e-005 GAMMA=0.58 PHI=0.6 LAMBDA=0.0612279
+  PB=0.64 CGSO=4.3e-010 CGDO=4.3e-010 RSH=120.6 CJ=0.0005 MJ=0.5052
+  CJSW=1.349e-010 MJSW=0.2417 TOX=2e-007 LD=1.5e-007 U0=261.977
+  NSUB=4.3318e+015 TPG=-1 NSS=100000000000 DELTA=1.79192 UEXP=0.323932
+  UCRIT=65719.8 VMAX=25694 XJ=2.5e-007 NEFF=1.001 NFS=1000000000000
+ )
.model NMOS nmos
+ (
+  Level=2 VTO=0.743469 KP=8.00059e-005 GAMMA=0.543 PHI=0.6 LAMBDA=0.0367072
+  PB=0.58 CGSO=4.3e-010 CGDO=4.3e-010 RSH=70 CJ=0.0003 MJ=0.6585
+  CJSW=8e-010 MJSW=0.2402 TOX=2e-007 LD=1.5e-007 U0=655.881 NSUB=5.36726e+015
+  TPG=1 NSS=100000000000 DELTA=2.39824 UEXP=0.157282 UCRIT=31443.8
+  VMAX=55260.9 XJ=2.5e-007 NEFF=1.001 NFS=1000000000000
+ )
.model DIODE4  D
+ (
+  IS=5e-012
+ )
.model DIODE3  D
+ (
+  IS=5e-012
+ )
.model DIODE6  D
+ (
+  IS=5e-012
+ )
.model DIODE5  D
+ (
+  IS=5e-012
+ )
.model DIODE1  D
+ (
+  KF=2e-010 AF=1.5
+ )
.model DIODE2  D
+ (
+  IS=1e-016
+ )
.model PNP PNP
+ (
+  Level=1 VAF=100
+ )
.model sw1 vswitch(Von=1.5 Voff=1.2 Ron=0.01 Roff=100000000)
.model sw2 vswitch(Von=3 Voff=2.7 Ron=0.01 Roff=100000000)
.model PMOS1 PMOS
.model NMOS1 NMOS
.ENDS AD8251
